### PR TITLE
[Merged by Bors] - feat: cyclotomic fields are totally complex

### PR DESCRIPTION
**Pull request by riccardobrasca**
We prove that cyclotomic fields are totally complex.

From flt-regular.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 1]
```diff
@@ -990,3 +990,36 @@ lemma IsUnramifiedAtInfinitePlaces.card_infinitePlace [NumberField k] [NumberFie
...
+  have hre : (f ζ).re = 1 ∨ (f ζ).re = -1 := by
+    · rw [← Complex.abs_re_eq_abs] at him
+      have := Complex.norm_eq_one_of_pow_eq_one hζ'.pow_eq_one (by linarith)
+      rw [Complex.norm_eq_abs, ← him] at this
+      by_cases hpos : 0 ≤ (f ζ).re
+      · rw [_root_.abs_of_nonneg hpos] at this
+        left; exact this
+      · rw [_root_.abs_of_neg (not_le.1 hpos)] at this
+        right; simp [← this]
+  cases hre with
```
Comment (xroblot) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:1016]: Slight golf
```suggestion
      rwa [Complex.norm_eq_abs, ← him, ← abs_one, abs_eq_abs] at this
```

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 2]
```diff
@@ -990,3 +990,36 @@ lemma IsUnramifiedAtInfinitePlaces.card_infinitePlace [NumberField k] [NumberFie
...
+  | inl hone =>
+    refine hζ'.ne_one (by linarith) <| Complex.ext (by simp [hone]) (by simp [him])
+  | inr hnegone =>
```
Comment (xroblot) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:1019]:
```suggestion
    exact hζ'.ne_one (by linarith) <| Complex.ext (by simp [hone]) (by simp [him])
```

File: Mathlib/NumberTheory/NumberField/Embeddings.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean:1016]: I am sorry, I still don't know how to correctly write a review. I tried to do it from VSCode but that's far from optimal.

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean:1016]: I just meant you can replace line 1010 by 
```lean
rwa [Complex.norm_eq_abs, ← him, ← abs_one, abs_eq_abs] at this
``` 
and delete the following lines.

File: Mathlib/NumberTheory/NumberField/Embeddings.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean:1019]: And here there is a`refine` that should be an `exact`.

File: Mathlib/NumberTheory/NumberField/Embeddings.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean:1016]: BTW, I'd be interested to know what people use to write their review since I cannot figure out how to do it properly 😅

**Review by xroblot — APPROVED** [review]

**Comment by riccardobrasca** [comment]
@xroblot Do you see a quick way of proving that if `finrank K = 1` then  `NrRealPlaces K = 1`?

**Comment by xroblot** [comment]
> @xroblot Do you see a quick way of proving that if `finrank K = 1` then `NrRealPlaces K = 1`?

Well, I don't see a better way than to use [NumberField.InfinitePlace.card_add_two_mul_card_eq_rank](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/NumberField/Embeddings.html#NumberField.InfinitePlace.card_add_two_mul_card_eq_rank) but I am sure you know that already. 

Well, there might something possible using: [IsUnramifiedAtInfinitePlaces_of_odd_finrank](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/NumberField/Embeddings.html#IsUnramifiedAtInfinitePlaces_of_odd_finrank). It could be a bit faster... I am not sure.

**Comment by riccardobrasca** [comment]
I've generalized the fact that `NrComplexPlaces K = φ n / 2` without the assumption that `2 < n` (of course it holds for stupid reasons, but still).

File: Mathlib/NumberTheory/Cyclotomic/Embeddings.lean [hunk 3]
```diff
@@ -0,0 +1,67 @@
...
+      apply nrComplexPlaces_eq_zero_of_finrank_eq_one
+      rw [IsCyclotomicExtension.finrank K (cyclotomic.irreducible_rat n.pos)]
+      convert totient_one
+    · have h2' : n = 2 := by
+        rw [← PNat.coe_inj]
+        exact h2
+      simp only [h2', show ((2 : ℕ+) : ℕ) = 2 from rfl, totient_two, reduceDiv]
+      apply nrComplexPlaces_eq_zero_of_finrank_eq_one
+      rw [IsCyclotomicExtension.finrank K (cyclotomic.irreducible_rat n.pos)]
+      convert totient_two
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Cyclotomic/Embeddings.lean:64]:
```suggestion
  · have : φ n = 1 := by
      by_cases h1 : 1 < n.1
      · convert totient_two
        exact (eq_of_le_of_not_lt (succ_le_of_lt h1) hn).symm
      · convert totient_one
        rw [← PNat.one_coe, PNat.coe_inj]
        exact eq_of_le_of_not_lt (not_lt.mp h1) (PNat.not_lt_one _)
    rw [this]
    apply nrComplexPlaces_eq_zero_of_finrank_eq_one
    rw [IsCyclotomicExtension.finrank K (cyclotomic.irreducible_rat n.pos), this]
```

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 4]
```diff
@@ -603,6 +606,21 @@ theorem card_add_two_mul_card_eq_rank :
...
 
+theorem nrComplexPlaces_eq_zero_of_finrank_eq_one (h : finrank ℚ K = 1) :
+    NrComplexPlaces K = 0 := by
+  have := card_add_two_mul_card_eq_rank K
+  rw [h, Nat.add_eq_one_iff] at this
+  rcases this with (⟨-, H⟩ | ⟨-, H⟩)
+  · exfalso
+    exact (Nat.even_iff_not_odd.1 <| (even_iff_exists_two_mul 1).2 ⟨NrComplexPlaces K, H.symm⟩)
+      ⟨0, rfl⟩
+  · simpa using H
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:617]:
```suggestion
  linarith
```

Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:617]:
```suggestion
  linarith
```

**Comment by faenuccio** [comment]
Besides the two golfing, LGTM.

File: Mathlib/NumberTheory/NumberField/Embeddings.lean (hunk 4 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean:617]: Wow, `linarith` is smater than I thought!

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
